US08133995B2
Step 2. Preparation of 4-chloro-1H-pyrrole-2-carboxamide
A solution of 2,2,2-trichloro-1-(4-chloro-1H-Pyrrol-2-yl)ethanone (14.0 g, 56.7 mmol) in THF (100 mL) was bubbled with ammonium gas for 2 h at room temperature. TLC analysis indicated that there was complete conversion of starting material. The reaction mixture was concentrated in vacuo to yield 7.5 g of the above compound (51.88 mmol, yield 92%). 1H-NMR (Acetone-d6) δ 10.92 (br s, 1H), 7.21 (br s, 1H), 7.02 (s, 1H), 6.84 (s, 1H), 6.57 (br s, 1H).

reactant | 2,2,2-trichloro-1-(4-chloro-1H-Pyrrol-2-yl)ethanone | 56.7 mmol, 14.0 g | ClC(C(=O)C=1NC=C(C1)Cl)(Cl)Cl | C6H3Cl4NO
reactant | ammonium | [NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-chloro-1H-pyrrole-2-carboxamide | 51.88 mmol, 7.5 g, yield 92% | ClC=1C=C(NC1)C(=O)N | C5H5ClN2O
